US05321027
90 g of 1-[4-(N-acetylamino)benzoyl]-4-[2-(4-chlorophenyl)ethyl]-piperazine and 2.8 g of 4-dimethylaminopyridine are suspended in 800 ml of acetonitrile. While cooling externally, a solution of 62 g of butoxycarbonyl anhydride in 100 ml of acetonitrile is added dropwise thereto in the course of 20 minutes. The suspension is stirred overnight at room temperature and then 47.4 g of 2-diethylaminoethylamine in 50 ml of acetonitrile are added dropwise thereto (1-[4-(N-butoxycarbonyl-N-acetylamino)benzoyl]-4-[2-(4-chlorophenyl)ethyl]-piperazine which occurs as intermediate is hydrolysed in accordance with L. Grehn et al., Acta Chem. Scand. B41, 18-23, 1987). The resulting clear solution is stirred overnight. The reaction solution is concentrated by evaporation. The oily residue is extracted by shaking with ethyl acetate, concentrated by evaporation and crystallised from ether, yielding 1-[4-(N-tert-butoxycarbonylamino)benzoyl]-4-[2-(4-chlorophenyl)ethyl]-piperazine having a melting point of 127°-128°.

reactant | 1-[4-(N-acetylamino)benzoyl]-4-[2-(4-chlorophenyl)ethyl]-piperazine | 90 g | C(C)(=O)NC1=CC=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=C1 | C21H24ClN3O2
reactant | 2-diethylaminoethylamine | 47.4 g | C(C)N(CCN)CC | C6H16N2
reactant | 1-[4-(N-butoxycarbonyl-N-acetylamino)benzoyl]-4-[2-(4-chlorophenyl)ethyl]-piperazine | C(CCC)OC(=O)N(C(C)=O)C1=CC=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=C1 | C26H32ClN3O4
catalyst | 4-dimethylaminopyridine | 2.8 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 800 ml | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 1-[4-(N-tert-butoxycarbonylamino)benzoyl]-4-[2-(4-chlorophenyl)ethyl]-piperazine | C(C)(C)(C)OC(=O)NC1=CC=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=C1 | C24H30ClN3O3
